US03932369
In a preferred embodiment, which is intended to be illustrative only, to polyisobutylene having a molecular weight of about 4 × 106 and dissolved at a level of 5 grams in 100 ml of n-heptane is added 20 ml of liquid sulfur dioxide at a temperature of 0°C. Ten grams of norbornene dissolved in 10 ml of n-heptane is added and this mixture is agitated at 10,000 rpm for 5 minutes. The agitation is terminated and a block copolymer of polyisobutylene and norbornene-sulfur dioxide is isolated by precipitating in methanol. This material is found to have incorporated 7.2 wt. % sulfur. On this basis, the material is compared to a physical mixture of polyisobutylene and a norbornene sulfur dioxide copolymer at equal levels of sulfur. It is found that the block copolymer shows substantially greater modulus as compared to the physical mixture described.

reactant | sulfur dioxide | S(=O)=O | O2S
reactant | norbornene | Ten grams | C12C=CC(CC1)C2 | C7H10
solvent | n-heptane | 100 ml | CCCCCCC | C7H16
solvent | n-heptane | 10 ml | CCCCCCC | C7H16
product | norbornene sulfur dioxide | C12C=CC(CC1)C2.S(=O)=O | InChI=1S/C7H10.O2S/c1-2-7-4-3-6(1)5-7;1-3-2/h1-2,6-7H,3-5H2;
